US05780500
N-(1-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-N-methyl-N-propylamine hydrochloride
Preparation analogous to Example 2 from 10-bromomethyl-1-chlorodibenz[b,f]oxepine with N-methyl-propylamine; yield: 25%; beige solid; melting point: not determined, (beige foam); 1H-NMR (CDCl3, 200 MHz): 0.88 (t, 3H); 1.55 (m, 2H); 2.28 (s, 3H); 2.43 (t, 2H); 3.55 (s, 2H), 7.08-7.35 (m, 7H); 7.61 (d, 1H).

reactant | 10-bromomethyl-1-chlorodibenz[b,f]oxepine | BrCC1=CC2=C(OC3=C1C=CC=C3)C=CC=C2Cl | C15H10BrClO
reactant | N-methyl-propylamine | CNCCC | C4H11N
product | N-(1-Chloro-dibenz[b,f]oxepin-10-ylmethyl)-N-methyl-N-propylamine hydrochloride | yield: 25% | Cl.ClC1=CC=CC=2OC3=C(C(=CC21)CN(CCC)C)C=CC=C3 | InChI=1S/C19H20ClNO.ClH/c1-3-11-21(2)13-14-12-16-17(20)8-6-10-19(16)22-18-9-5-4-7-15(14)18;/h4-10,12H,3,11,13H2,1-2H3;1H
